US04348320
Trans-3-benzyl-4-(2-hydroxyethyl)-2-azetidinone is acetylated as described for the acetylation of trans-3-isopropyl-4-(2-hydroxyethyl)-2-azetidinone to give trans-3-benzyl-4-(2-acetoxyethyl)-2-azetidinone.

reactant | Trans-3-benzyl-4-(2-hydroxyethyl)-2-azetidinone | C(C1=CC=CC=C1)[C@@H]1C(N[C@H]1CCO)=O | C12H15NO2
reactant | trans-3-isopropyl-4-(2-hydroxyethyl)-2-azetidinone | C(C)(C)[C@@H]1C(N[C@H]1CCO)=O | C8H15NO2
product | trans-3-benzyl-4-(2-acetoxyethyl)-2-azetidinone | C(C1=CC=CC=C1)[C@@H]1C(N[C@H]1CCOC(C)=O)=O | C14H17NO3
